US04168269
9-[4-chloro-3-(trifluoromethyl)benzyl]-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
To a solution of 8.64 g. of 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of dimethylformamide is added 2.1 g. of 50% sodium hydride in mineral oil. The mixture is stirred for one hour and 10.0 g. of 4-chloro-3-trifluoromethyl benzyl chloride and 10 mg of potassium iodide are added. The mixture is stirred for a prolonged period and the solvent is removed in vacuo. The residual gum is dissolved in methylene chloride, dried over magnesium sulfate and filtered through magnesol. The filtrate is evaporated to give tan crystals which are recrystallized from ethanol giving the desired product as off-white crystals, mp. 181°-183° C.

reactant | 4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C=1SC=C2NC3=C(NC(C21)=O)C=CC=C3 | C11H8N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-3-trifluoromethyl benzyl chloride | ClC1=C(C=C(CCl)C=C1)C(F)(F)F | C8H5Cl2F3
reactant | potassium iodide | 10 mg | [I-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-[4-chloro-3-(trifluoromethyl)benzyl]-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC1=C(C=C(CN2C(C=3C(NC4=C2C=CC=C4)=CSC3)=O)C=C1)C(F)(F)F | C19H12ClF3N2OS
